US07943609B2
tert-Butyl (2S)-2-[(3-nitroquinolin-4-yl)amino]propylcarbamate (5.04 g, 14.5 mmol) was dissolved in acetonitrile (300 mL) and the solution was placed in a pressure bottle. Platinum on carbon (5%, 1.03 g) was then added and the reaction mixture was shaken under H2 at 30 PSI (2.1×105 Pa). After 20 hours, the reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with acetonitrile and the combined filtrates were concentrated under reduced pressure to give tert-butyl (2S)-2-[(3-aminoquinolin-4-yl)amino]propylcarbamate (4.60 g) as an orange foam.

reactant | tert-Butyl (2S)-2-[(3-nitroquinolin-4-yl)amino]propylcarbamate | 14.5 mmol, 5.04 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1N[C@H](CNC(OC(C)(C)C)=O)C | C17H22N4O4
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
catalyst | Platinum on carbon | 1.03 g | [Pt] | Pt
product | tert-butyl (2S)-2-[(3-aminoquinolin-4-yl)amino]propylcarbamate | 4.60 g | NC=1C=NC2=CC=CC=C2C1N[C@H](CNC(OC(C)(C)C)=O)C | C17H24N4O2
